US07947686B2
Step 3. 2-Nitro-4-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzoic acid
To a solution of 2-nitro-4-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzoic acid tert-butyl ester (1.70 g, 4.22 mmol) in dichloromethane (25 mL) trifluoroacetic acid (5 mL) was added. The mixture was stirred at room temperature for 2 h, and then evaporated to give the title compound as yellow solid. 1H-NMR (400 MHz), ppm, DMSO-d6): 13.21 (bs, 1H), 7.78 (d, J=8.9 Hz, 1H), 7.31 (d, J=2.5 Hz, 1H), 7.17 (dd, J1=8.9 Hz, J2=2.5 Hz, 1H), 3.74 (m, 4H), 3.56 (m, 4H).

reactant | 2-nitro-4-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzoic acid tert-butyl ester | 4.22 mmol, 1.70 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)N1CCN(CC1)C(C(F)(F)F)=O)[N+](=O)[O-])=O | C17H20F3N3O5
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-Nitro-4-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-benzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)N1CCN(CC1)C(C(F)(F)F)=O | C13H12F3N3O5
